US06169088A
To a solution of 52.6 g (313 mmol) of commercially available vanillic acid in 250 ml of dimethylformamide was slowly added 129.8 g (939 mmol) of potassium carbonate under ice-cooling, and 78.2 ml (657 mmol) of benzyl bromide was slowly added thereto, followed by overnight stirring in an atmosphere of argon at room temperature. The reaction mixture was poured into water, and sodium chloride was added thereto. The precipitated crystals were collected by filtration, washed with water, and dried to give 104.2 g (96%) of 4-benzyloxy-3-methoxybenzoic acid benzyl ester.

reactant | vanillic acid | C(C1=CC(OC)=C(O)C=C1)(=O)O | C8H8O4
reactant | potassium carbonate | 939 mmol, 129.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | benzyl bromide | 657 mmol, 78.2 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | sodium chloride | [Cl-].[Na+]
solvent | dimethylformamide | 250 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 4-benzyloxy-3-methoxybenzoic acid benzyl ester | 104.2 g, 96% | C(C1=CC=CC=C1)OC(C1=CC(=C(C=C1)OCC1=CC=CC=C1)OC)=O | C22H20O4
